US07435815B2
N-Ethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide
prepared by reaction of [(5-isopropyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid with ethyl-(6-methyl-pyridin-2-ylmethyl)-amine

reactant | [(5-isopropyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C17H20N2O4S
reactant | ethyl-(6-methyl-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC(=CC=C1)C | C9H14N2
product | N-Ethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=NC=C(C=C1)C(C)C)=O)CC1=NC(=CC=C1)C | C26H32N4O3S
